US07662809B2
Step 7: methyl 14-cyclohexyl-5-[2-(dimethylamino)ethyl]-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate
NaH (1.4 eq, 60% dispersion in mineral oil) was added to a solution of methyl 14-cyclohexyl-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate in DMF (0.1 M) and the solution allowed to stir at RT for 1 h. In the meantime, a 1:1 equimolar mixture of (2-chloroethyl)dimethylamine hydrochloride and NaH (60% dispersion in mineral oil) in solution in DMF (0.5 M) was prepared. After 30 mins, this mixture (2.5 eq of (2-chloroethyl)dimethylamine) was slowly added to the solution of indole anion and the mixture was stirred at RT overnight. DMF was removed in vacuo and the residue taken up in EtOAc. The organic phase was washed with H2O (twice) and then brine before being dried over Na2SO4, filtered and the solvent evaporated in vacuo. The crude compound was used in the next step without further purification; MS (ES+) m/z 474 (M+H)+.

reactant | NaH | 1.4 eq | [H-].[Na+]
reactant | methyl 14-cyclohexyl-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCC(NC3=C(C21)C=CC=C3)=O)C(=O)OC | C25H26N2O3
reactant | (2-chloroethyl)dimethylamine hydrochloride | Cl.ClCCN(C)C
reactant | (2-chloroethyl)dimethylamine | 2.5 eq | ClCCN(C)C | C4H10ClN
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | DMF | 0.1 M | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
product | methyl 14-cyclohexyl-5-[2-(dimethylamino)ethyl]-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCC(N(C3=C(C21)C=CC=C3)CCN(C)C)=O)C(=O)OC | C29H35N3O3
